US07608627B2
A slurry of potassium ethoxide (391 mg, 4.64 mmol) in diethyl ether (4 mL) under N2 was cooled to 0° C. under vigorous stirring. Diethyl oxalate (0.63 mL, 4.65 mmol) was added, and the mixture was stirred for 5 min. A solution of 2-(dibenzylamino)-4-methyl-3-nitropyridine (1.52 g, 4.56 mmol) in diethyl ether (3 mL) was added, and the mixture was stirred for 16 h while slowly warming to room temperature, during which time a precipitate formed. The solid was collected on a sintered glass frit and rinsed several times with additional diethyl ether. The solid was transferred to a vial and dried under vacuum at 30° C. for 2 h to provide potassium (1Z)-1-[2-(dibenzylamino)-3-nitropyridin-4-yl]-3-ethoxy-3-oxoprop-1-en-2-olate (1.63 g, 3.46 mmol, 76%) as a light orange solid. This product was immediately used without purification or identification.

reactant | potassium ethoxide | 4.64 mmol, 391 mg | [O-]CC.[K+]
reactant | Diethyl oxalate | 4.65 mmol, 0.63 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-(dibenzylamino)-4-methyl-3-nitropyridine | 4.56 mmol, 1.52 g | C(C1=CC=CC=C1)N(C1=NC=CC(=C1[N+](=O)[O-])C)CC1=CC=CC=C1 | C20H19N3O2
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 3 mL | C(C)OCC | C4H10O
product | potassium (1Z)-1-[2-(dibenzylamino)-3-nitropyridin-4-yl]-3-ethoxy-3-oxoprop-1-en-2-olate | 3.46 mmol, 1.63 g, 76% | C(C1=CC=CC=C1)N(C1=NC=CC(=C1[N+](=O)[O-])\C=C(\C(=O)OCC)/[O-])CC1=CC=CC=C1.[K+] | InChI=1S/C24H23N3O5.K/c1-2-32-24(29)21(28)15-20-13-14-25-23(22(20)27(30)31)26(16-18-9-5-3-6-10-18)17-19-11-7-4-8-12-19;/h3-15,28H,2,16-17H2,1H3;/q;+1/p-1/b21-15-;
